US08182718B2
Htk=N-Methyl-N-[(1-methyl-1H-benzimidazol-2-yl)methyl]pyridin-2-amine
To a flask were added 0.6 g 2-(methylamino)pyridine and 20 ml tetrahydrofuran, and the mixture was cooled to 5 C. To this mixture were added 0.26 g of 60% sodium hydride in mineral oil in small portions, and after stirring at 5-10 C for ten minutes, 1.0 g of 2-(chloromethyl)-1-methyl-1H-benzimidazole was added. The reaction mixture was heated to 45 C for 16 hours, then cooled to 22 C and quenched with 40 ml water. The product was extracted with 40 ml ethyl acetate and following removal of the solvent, the product was purified by silica gel chromatography using 63% ethyl acetate, 25% hexane and 12% methanol resulting in 0.55 g of a yellow solid.

reactant | 2-(methylamino)pyridine | 0.6 g | CNC1=NC=CC=C1 | C6H8N2
reactant | sodium hydride | 0.26 g | [H-].[Na+]
reactant | 2-(chloromethyl)-1-methyl-1H-benzimidazole | 1.0 g | ClCC1=NC2=C(N1C)C=CC=C2 | C9H9ClN2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-Methyl-N-[(1-methyl-1H-benzimidazol-2-yl)methyl]pyridin-2-amine | CN(C1=NC=CC=C1)CC1=NC2=C(N1C)C=CC=C2 | C15H16N4
